US05824690
Synthesis of [3-(3,4-dimethoxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester
2-[3-(3,4-Dimethoxy-phenyl)-pyrrolidin-3-yl]-ethanol (2.27 g, 9.03 mmol) and dichloromethane (100 mL) were combined. 4-Methylmorpholine (2.28 mL, 22.6 mmol, 2.5 eq.) was added. The mixture was cooled in a ice/NaCl bath and a solution of 3,4,5-trimethoxy-benzoyl chloride (2.19 g, 9.48 mmol) in dichloromethane (30 mL) was added dropwise. After the addition was complete, the dry-ice/acetone bath was changed to an ice bath and the mixture was allowed to warm to ambient temperature and maintained overnight. The solution was extracted with 1N HCl (3×100 mL), saturated K2CO3 (3×100 mL). The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo to obtain a residue. The residue was purified by chromatography on silica gel eluting with ethyl acetate/methanol (20:1) to obtain a residue. The residue was dissolved in dichloromethane (50 mL), extracted with water (2×50 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain a residue. Heated at 110° C./0.3 Torr for 16 h to obtain the title compound: Rf =0.14 (silica gel, 20:1 ethyl acetate/methanol), mp=60°-62° C. Analysis: calculated for C24H31 NO7, C 64.70; H 7.01; N 3.14; Found C 64.40; H 7.21; N 2.85.

reactant | 2-[3-(3,4-Dimethoxy-phenyl)-pyrrolidin-3-yl]-ethanol | 9.03 mmol, 2.27 g | COC=1C=C(C=CC1OC)C1(CNCC1)CCO | C14H21NO3
reactant | 4-Methylmorpholine | 22.6 mmol, 2.28 mL, 2.5 eq. | CN1CCOCC1 | C5H11NO
reactant | 3,4,5-trimethoxy-benzoyl chloride | 9.48 mmol, 2.19 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [3-(3,4-dimethoxy-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)OC)OC)=O | C16H21NO5
